US04154761
(c) α1 -[[[1,1-Dimethyl-2-(methylphenylamino)ethyl]amino]methyl]-4-hydroxy-1,3-benzenedimethanol
α1 -[[[1,1-Dimethyl-2-(methylphenylamino)ethyl]amino]methyl]-4-phenylmethoxy-1,3-benzenedimethanol (1.3 g) in ethanol (60 ml) was hydrogenated over 10% palladium on charcoal (250 mg). The catalyst was filtered off and the filtrate was evaporated to an oil which foamed under high vacuum. The product crystallised as a white microcrystalline powder from dry ether (630 mg) m.p. 131°-133°.

reactant | [[[1,1-Dimethyl-2-(methylphenylamino)ethyl]amino]methyl]-4-phenylmethoxy-1,3-benzenedimethanol | 1.3 g | CC(CN(C1=CC=CC=C1)C)(C)NCC1=C(C=CC(=C1CO)OCC1=CC=CC=C1)CO | C27H34N2O3
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 250 mg | [Pd] | Pd
product | [[[1,1-Dimethyl-2-(methylphenylamino)ethyl]amino]methyl]-4-hydroxy-1,3-benzenedimethanol | CC(CN(C1=CC=CC=C1)C)(C)NCC1=C(C=CC(=C1CO)O)CO | C20H28N2O3
